US07268232B2
4-(3-Fluoropiperidin-1-yl)naphthalene-1-carbonitrile (165RL74)
3-Fluoropiperidine hydrochloride (106 mg, 0.76 mol) was dissolved in sodium hydroxide (1 M, 10 mL) and extracted with dichloromethane (4×10 mL), the combined extracts were dried over sodium sulfate, filtered and evaporated. Pyridine (2 mL) was added, followed by 1-cyano-4-fluoronaphthalene (108 mg, 0.63 mmol) and the vial was shaken at 110° C. overnight. GC-MS and TLC showed only very little conversion. DBU (10 μL) was added and the shaking was continued for 2 weeks at 110° C., after which GC-MS showed ˜50% conversion. The reaction was worked up in the same way as 165RL60 and purified by silica gel column chromatography eluted with a stepwise gradient of 0-60% ethyl acetate in n-heptane to give the title compound (29.3 mg, 12%) as a solid.

reactant | 3-Fluoropiperidine hydrochloride | 0.76 mol, 106 mg | Cl.FC1CNCCC1
reactant | 1-cyano-4-fluoronaphthalene | 0.63 mmol, 108 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | DBU | 10 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
product | 4-(3-Fluoropiperidin-1-yl)naphthalene-1-carbonitrile | 29.3 mg, 12% | FC1CN(CCC1)C1=CC=C(C2=CC=CC=C12)C#N | C16H15FN2
